US04291175
4-(4-Bromobutyl)-2,2-dimethyl-1,3-dioxolane
To a stirred solution of 220 g. of 2,2-dimethyl-4-(4-p-toluenesulfonyloxybutyl)-1,3-dioxolane in 800 ml. of dimethylformamide at 0° C. is added 115 g. of anhydrous lithium bromide in portions during 5 minutes. The resulting mixture is stirred at ambient temperature for 22 hours, diluted with water, and extracted with ether. The extract is washed with sodium bicarbonate solution, water, and brine; dried over magnesium sulfate; and concentrated. The residue is distilled to give a colorless liquid, b.p. 71°-74° C. (0.2 mm.).

reactant | 2,2-dimethyl-4-(4-p-toluenesulfonyloxybutyl)-1,3-dioxolane | CC1(OCC(O1)CCCCOS(=O)(=O)C1=CC=C(C=C1)C)C | C16H24O5S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | lithium bromide | [Br-].[Li+]
solvent | water | O | H2O
product | 4-(4-Bromobutyl)-2,2-dimethyl-1,3-dioxolane | BrCCCCC1OC(OC1)(C)C | C9H17BrO2
